US06518265B1
4-[2-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-N-methyl-1-piperidine-carbothioamide
A suspension of 0.50 g of 4-amino-1-[2-(4-piperidyl)ethyl]-1H-imidazo[4,5-c]-quinoline and 0.37 g of methylisothiocyanate in 10 ml of methylene chloride was stirred at room temperature for 1 hour, and then the precipitated crystals were collected by filtration to give 0.56 g of colorless crystals. Recrystallization from a mixture of methylene chloride and methanol gave colorless crystals having the melting point of from 216 to 218° C.

reactant | 4-amino-1-[2-(4-piperidyl)ethyl]-1H-imidazo[4,5-c]-quinoline | 0.50 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCNCC2 | C17H21N5
reactant | methylisothiocyanate | 0.37 g | CN=C=S | C2H3NS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-N-methyl-1-piperidine-carbothioamide | 0.56 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCN(CC2)C(NC)=S | C19H24N6S
